US09084794B2
c) 4-bromo-2,6-difluorophenethyl acetate
A solution of 2-(4-bromo-2,6-difluorophenyl)ethanol (1.392 mmol) in dichloromethane (2 mL) was treated with pyridine (4.00 mL), acetic anhydride (4.18 mmol), and 4-(dimethylamino)pyridine (0.070 mmol). The reaction was stirred at room temperature for three days. At this point, the reaction contents were concentrated to in vacuo to minimum volume. The material was diluted with water (50 mL) and was extracted twice with ethyl acetate. The combined organic layers were washed with saturated aq sodium bicarbonate, twice with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford the title compound as a beige oil (330 mg, 76% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.95 (s, 3 H) 2.91 (t, J=6.32 Hz, 2 H) 4.18 (t, J=6.44 Hz, 2 H) 7.47 (d, J=7.07 Hz, 2 H).

reactant | 2-(4-bromo-2,6-difluorophenyl)ethanol | 1.392 mmol | BrC1=CC(=C(C(=C1)F)CCO)F | C8H7BrF2O
reactant | pyridine | 4.00 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 4.18 mmol | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 0.070 mmol | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-bromo-2,6-difluorophenethyl acetate | 330 mg, 76% yield | C(C)(=O)OCCC1=C(C=C(C=C1F)Br)F | C10H9BrF2O2
